US06677352B1
A solution of LDA (38.2 mmol, freshly prepared from n-BuLi and diisopropylamine) in THF (53 mL) was added to a cooled (−78° C.) and stirred suspension of 2-anilino-5-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one (2.50 g, 7.64 mmol) in THF (100 mL). The resulting mixture was stirred for 1 h, and then oxygen gas was bubbled, through a flitted glass tube, into the bottom of the reaction vessel. The mixture was stirred overnight, with continued bubbling of oxygen with slow warming to room temperature. The reaction was quenched with water and 1M HCl (5 mL), and then extracted with CH2Cl2. The organic phase was dried over Na2SO4 and concentrated in vacuo to afford an orange solid which was recrystalized from EtOAc to obtain 2-anilino-5-(hydroxymethyl)-1-phenyl-1,8-naphthyridin-4(1H)-one (1.38 g, 53%): LCMS RT: 2.01 min, MH+: 344.3, Rf=0.22 (95:5 CH2Cl2:MeOH).

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | n-BuLi | [Li]CCCC
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | 2-anilino-5-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one | 7.64 mmol, 2.50 g | N(C1=CC=CC=C1)C=1N(C2=NC=CC(=C2C(C1)=O)C)C1=CC=CC=C1 | C21H17N3O
reactant | THF | 53 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-anilino-5-(hydroxymethyl)-1-phenyl-1,8-naphthyridin-4(1H)-one | 1.38 g, 53% | N(C1=CC=CC=C1)C=1N(C2=NC=CC(=C2C(C1)=O)CO)C1=CC=CC=C1 | C21H17N3O2
